US07795262B2
XXXVIII. 2-Cyano-5-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-4,5,6,7-Tetrahydro[1,3]Thiazolo[5,4-C]Pyridine (Scheme 19)
A mixture of 2-bromo-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine (40 mg, 0.1 mmol), Zn(CN)2 (15 mg, 0.2 mmol), Pd2(dba)3 (5 mg, 0.005 mmol) and dppf (6 mg, 0.01 mmol) in DMF (4 mL) is degassed with argon and heated at 110° C. in a sealed tube overnight. The mixture is cooled and solvent is removed in vacuo. The residue is partitioned between water (3 mL) and EtOAc (3 mL). The aqueous layer is extracted with EtOAc (4 ml) and the combined extracts are dried and evaporated. The residue is purified by PTLC to give the title compound as a light yellow solid. MS (M+1): 346.0; 1H NMR (δ, CDCl3): 3.92 (s, 2H), 3.55-3.67 (m, 4H), 3.45 (s, 2H), 3.00 (s, 4H), 2.66-2.77 (m, 1H), 2.31 (s, 4H), 1.63-2.08 (m, 6H).

reactant | 2-bromo-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine | 0.1 mmol, 40 mg | BrC=1SC=2CN(CCC2N1)CC(=O)N1CCN(CC1)C1CCC1 | C16H23BrN4OS
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.2 mmol, 15 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.005 mmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.01 mmol, 6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-Cyano-5-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-4,5,6,7-Tetrahydro[1,3]Thiazolo[5,4-C]Pyridine | C(#N)C=1SC=2CN(CCC2N1)CC(=O)N1CCN(CC1)C1CCC1 | C17H23N5OS
